US05405865
Stage A: 4,5-dichloro-2-thiophenecarboxaldehyde.
11.1 g of diisopropylamine in 100 ml of tetrahydrofuran were cooled to -60° C., 49 ml of n-butyllithium were added over 10 minutes. The mixture was stirred for 30 minutes and 10 g of 2,3-dichlorothiophene were added at -60° C. The mixture was stirred for 45 minutes and then 6 m1 of dimethylformamide and 10 ml of tetrahydrofuran were added. The mixture was stirred for 1 and a half hours, allowed to return to room temperature, poured into a saturated aqueous sodium dihydrogenphosphate solution and extracted with isopropyl ether. The solvent was evaporated and, after chromatography on silica (eluent: 95/5 hexane/ethyl acetate), 10.16 g of the expected product were obtained.

reactant | diisopropylamine | 11.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 49 ml | C(CCC)[Li]
reactant | 2,3-dichlorothiophene | 10 g | ClC=1SC=CC1Cl | C4H2Cl2S
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,5-dichloro-2-thiophenecarboxaldehyde | 10.16 g | ClC=1C=C(SC1Cl)C=O | C5H2Cl2OS
